US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(3-amino-4-methyl-phenyl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 397, starting from 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine and 3-amino-4-methyl-phenylboronic acid. Mass spectrum (ESI) 421.3 (M+1).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)I | C19H16IN5
reactant | 3-amino-4-methyl-phenylboronic acid | NC=1C=C(C=CC1C)B(O)O | C7H10BNO2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(3-amino-4-methyl-phenyl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=CC(=C(C=C2)C)N | C26H24N6
